US07902201B2
5-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid cyclopropylamide
As described for example 19f, 5-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid (84.7 mg, 2.8 mmol) was converted, using cyclopropylamine instead of 4-aminotetrahydropyran, to the title compound (SiO2, heptane:ethyl acetate 7:3 to 2:8, 78 mg, 81%) which was obtained as a white solid. MS: m/e=338.3 [M+H]+.

reactant | 5-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid | 2.8 mmol, 84.7 mg | N1=C(C=CC=C1)C1=NOC=C1COC=1N=CC(=NC1)C(=O)O | C14H10N4O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 5-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid cyclopropylamide | 78 mg, 81% | C1(CC1)NC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=NC=CC=C1 | C17H15N5O3
